US04202978
The crude 1-(2-hydroxyethyl)-4-phenylpiperazine (~400 g) thus obtained was dissolved in dry CH2Cl2 (3.5 l) containing triethylamine (400 ml; 2.9 mol) and the solution was cooled to ~10. A solution of 250 g (2.18 mol) mesyl chloride in 300 ml CH2Cl2 was added to the stirred mixture over 30 min and then the reaction was allowed to warm up to room temp. It was then stirred at ambient temperature until the in situ conversion of the intermediate mesylate to the chloro compound was completed (16-40 hrs). Water (1 l) was added and the layers separated. The aqueous layer was washed with CH2Cl2 (1×300 ml) and then the combined CH2Cl2 phases were dried (K2CO3) and evaporated. The residue was triturated with hot hexane (1×1 l; 4×200 ml) and the combined extracts were decolorized (charcoal) and then cooled to 0°- 5°. Filtration of the resulting colorless crystals afforded 1-(2-chloroethyl)-4-phenylpiperazine, mp 56°-58°. Concentration of the mother liquor to ~400 ml furnished additional product, mp 55°-57°.

reactant | 1-(2-hydroxyethyl)-4-phenylpiperazine | ~400 g | OCCN1CCN(CC1)C1=CC=CC=C1 | C12H18N2O
reactant | triethylamine | 2.9 mol, 400 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 2.18 mol, 250 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | CH2Cl2 | 3.5 l | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 1 l | O | H2O
product | 1-(2-chloroethyl)-4-phenylpiperazine | ClCCN1CCN(CC1)C1=CC=CC=C1 | C12H17ClN2
